US06288122B1
Bis(4-fluorophenyl)phenylmethanol (0.092 mol) was added to a 20% solution of acetyl chloride in dichloromethane (50 mL) at rt. The resulting purple solution was stirred for 12 h after which the solvent was removed by evaporation. Toluene (100 mL) was added to the residue and then evaporated, affording crude bis(4-fluorophenyl)phenylchloromethane which was used without purification in the following step.

reactant | Bis(4-fluorophenyl)phenylmethanol | 0.092 mol | FC1=CC=C(C=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H14F2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | bis(4-fluorophenyl)phenylchloromethane | FC1=CC=C(C=C1)C(Cl)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H13ClF2
